US04711967
S-phenyl S-methyl dithiocarbonate prepared as described in Example 3 (5 g), ethylene glycol (5 ml), and imidazole (0.1 g) were placed in a stirred flask and heated to 160° C. for 10 hours. At this time, the major component (excepting ethylene glycol) was identified by g.c. comparison with an authentic sample as phenylmercaptoethanol (g.c. suggested over 90 percent yield).

reactant | S-phenyl S-methyl dithiocarbonate | C(SC1=CC=CC=C1)(SC)=O | C8H8OS2
reactant | imidazole | 0.1 g | N1C=NC=C1 | C3H4N2
solvent | ethylene glycol | C(CO)O | C2H6O2
solvent | ethylene glycol | 5 ml | C(CO)O | C2H6O2
product | phenylmercaptoethanol | 90 percent yield | C1(=CC=CC=C1)SC(C)O | C8H10OS
